US08557830B2
A mixture of 5-(3-(9-(4-methoxybenzyl)-9H-purin-6-yl)pyridin-2-yloxy)-1-chloro-6-methylisoquinoline (0.250 g, 0.491 mmol) and 4-chloroaniline (0.0752 g, 0.589 mmol) in anhydrous 1,4 dioxane (10 mL) was vacuum purged with Ar three times, then 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl (0.0309 g, 0.0786 mmol) and tris(dibenzylideneacetone)palladium (0) (0.0180 g, 0.0196 mmol) were added. The suspension was sonicated for 2 min, then treated dropwise with lithium bis(trimethylsilyl)amide (1.0 M solution in THF; 0.69 mL, 0.69 mmol). The resulting brown solution was stirred in a 50° C. oil bath for 45 min. The reaction mixture was allowed to cool to RT (22° C.) and quenched with 1N aq HCl (5 mL). After stirring at RT for 10 min, the mixture was added to satd NaHCO3 (70 mL) and extracted with EtOAc (2×50 mL). The combined extracts were washed with water (50 mL), satd NaCl (50 mL), dried over Na2SO4, filtered, and concentrated in vacuo to give 530 mg as a yellow residue. The crude product was adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (40 g), eluting with a gradient of 30% to 60% EtOAc in CH2Cl2, to provide 5-(3-(9-(4-methoxybenzyl)-9H-purin-6-yl)pyridin-2-yloxy)-N-(4-chlorophenyl)-6-methylisoquinolin-1-amine as a clear film. MS (ESI, pos. ion) m/z: 600.2 [M+H]+.

reactant | 5-(3-(9-(4-methoxybenzyl)-9H-purin-6-yl)pyridin-2-yloxy)-1-chloro-6-methylisoquinoline | 0.491 mmol, 0.250 g | COC1=CC=C(CN2C3=NC=NC(=C3N=C2)C=2C(=NC=CC2)OC2=C3C=CN=C(C3=CC=C2C)Cl)C=C1 | C28H21ClN6O2
reactant | 4-chloroaniline | 0.589 mmol, 0.0752 g | ClC1=CC=C(N)C=C1 | C6H6ClN
reactant | 2-dicyclohexylphosphino-2′-(N,N-dimethylamino)biphenyl | 0.0786 mmol, 0.0309 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | lithium bis(trimethylsilyl)amide | 0.69 mmol, 1.0 M, 0.69 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | 1,4 dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 5-(3-(9-(4-methoxybenzyl)-9H-purin-6-yl)pyridin-2-yloxy)-N-(4-chlorophenyl)-6-methylisoquinolin-1-amine | COC1=CC=C(CN2C3=NC=NC(=C3N=C2)C=2C(=NC=CC2)OC2=C3C=CN=C(C3=CC=C2C)NC2=CC=C(C=C2)Cl)C=C1 | C34H26ClN7O2
